US07737166B2
6-Bromo-2-chloro-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-167)
2-Amino-5-bromo-4-fluoro-3-hydroxy-6-methylbenzonitrile (I-75) (1.54 g, 6.28 mmol) was dissolved in pyridine (80 ml), then potassium O-ethyl dithiocarbonate (3.10 g, 19.3 mmol) was added, followed by heating under reflux for 3 hours. The solvent was evaporated away under reduced pressure, then ethyl acetate and diluted hydrochloric acid were added for liquid-liquid separation of the organic layer. After washing with water and saturated brine and drying over anhydrous sodium sulfate, the solvent was evaporated away under reduced pressure. Again using 2-amino-5-bromo-4-fluoro-3-hydroxy-6-methylbenzonitrile (I-75) (1.45 g, 5.92 mmol), pyridine (75 ml) and potassium O-ethyl dithiocarbonate (2.90 g, 18.1 mmol), the same reaction was carried out, and the resulting residues were combined, dissolved in thionyl chloride (70 ml). N,N-dimethylformamide (0.70 ml) was added, followed by stirring at an external temperature of about 70° C. for 1 hour, then the reaction liquid was concentrated under reduced pressure. Dichloromethane and aqueous sodium hydrogencarbonate solution were added, and the organic layer was separated. After extraction with dichloromethane, the organic layers were combined, and dried over anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified by silica gel column chromatography (dichloromethane) to obtain the entitled compound (1.93 g, 55%) as a brown solid.

reactant | 2-Amino-5-bromo-4-fluoro-3-hydroxy-6-methylbenzonitrile | 6.28 mmol, 1.54 g | NC1=C(C#N)C(=C(C(=C1O)F)Br)C | C8H6BrFN2O
reactant | potassium O-ethyl dithiocarbonate | 19.3 mmol, 3.10 g | C([S-])(OCC)=S.[K+]
reactant | 2-amino-5-bromo-4-fluoro-3-hydroxy-6-methylbenzonitrile | 5.92 mmol, 1.45 g | NC1=C(C#N)C(=C(C(=C1O)F)Br)C | C8H6BrFN2O
reactant | potassium O-ethyl dithiocarbonate | 18.1 mmol, 2.90 g | C([S-])(OCC)=S.[K+]
reactant | N,N-dimethylformamide | 0.70 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 70 ml | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
product | 6-Bromo-2-chloro-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 1.93 g, 55% | BrC=1C(=C2C(N=C(O2)Cl)=C(C1C)C#N)F | C9H3BrClFN2O
